US08183251B2
b) 2-Cyclopropylpyrimidin-5-ol
5-(Benzyloxy)-2-cyclopropylpyrimidine (4.0 g, 18 mmol) was dissolved in MeOH (100 mL) and 10% palladium on carbon (0.170 g) was added. The mixture was hydrogenated at ambient temperature and 1.013 bar pressure overnight. Filtration and concentration gave a crude product that was filtered through a short silica gel column using 5% MeOH-EtOAc as eluent. Evaporation of the solvent gave 1.3 g (54% yield) of the subtitle compound as a colourless solid.

reactant | 5-(Benzyloxy)-2-cyclopropylpyrimidine | 18 mmol, 4.0 g | C(C1=CC=CC=C1)OC=1C=NC(=NC1)C1CC1 | C14H14N2O
solvent | MeOH | 100 mL | CO | CH4O
catalyst | palladium on carbon | 0.170 g | [Pd] | Pd
product | 2-Cyclopropylpyrimidin-5-ol | 1.3 g, 54% yield | C1(CC1)C1=NC=C(C=N1)O | C7H8N2O
